US05154851
4-[2-(Trans-4-propylcyclohexyl)ethyl]phenylacetylene (2.54 g, 0.01 mol) and 4-(1-propynyl)iodobenzene (2.4 g, 0.01 mol) were dissolved in diethylamine (20 ml), and then copper iodide (0.11 g, 0.15 mmol) and dichlorobistriphenylphosphinepalladium dichloride (0.21 g, 0.3 mmol) were added. The resulting mixture was subjected to reaction and purification operations in the same manner as in Example 1, to obtain the objective 4-[2-(trans-4-propylcyclohexyl)ethyl]-4'-(1-propynyl)tolan (compound

reactant | 4-[2-(Trans-4-propylcyclohexyl)ethyl]phenylacetylene | 0.01 mol, 2.54 g | C(CC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C#C | C19H26
reactant | 4-(1-propynyl)iodobenzene | 0.01 mol, 2.4 g | C(#CC)C1=CC=C(C=C1)I | C9H7I
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
catalyst | copper iodide | 0.15 mmol, 0.11 g | [Cu](I)I
product | 4-[2-(trans-4-propylcyclohexyl)ethyl]-4'-(1-propynyl)tolan | C(CC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C#CC | C28H32
